US04847256
7-[3-(Trifluoromethyl)phenyl]pyrazolo[1,5-a]-pyrimidine-3-carboxamide
A mixture of 3.0 g of 7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile (prepared as described in U.S. Pat. No. 4,236,005) and 150 ml of concentrated sulfuric acid was stirred at room temperature for 4 hours. The solution was then carefully poured into ice water with stirring. The white precipitate formed was collected, washed with water and then with saturated sodium bicarbonate until it was neutral. The solid was heated with one liter of isopropyl alcohol and filtered. The white solid was dried in vacuo and gave the product of the example as a colorless solid, mp 256°-258° C.

reactant | 7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 3.0 g | FC(C1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C#N)(F)F | C14H7F3N4
reactant | sulfuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
product | 7-[3-(Trifluoromethyl)phenyl]pyrazolo[1,5-a]-pyrimidine-3-carboxamide | FC(C=1C=C(C=CC1)C1=CC=NC=2N1N=CC2C(=O)N)(F)F | C14H9F3N4O
